US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
1-(2,2-Dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]-1-(4-phenoxy-phenyl)urea (0.33 g) was shaken with trifluoroacetic acid (5 ml) for 16 hours. Volatiles were removed and the residue was taken up in dichloromethane (10 ml) and washed with sodium hydroxide solution (0.1N; 1 ml). The aqueous phase was extracted with dichloromethane (10 ml), and the combined organic phases were concentrated. The residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol 98:2 with 1% v/v 7N ammonia solution in methanol). The product with the molecular weight of 415.50 (C25H25N3O3); MS (ESI): 416 ([M+H]+), was obtained in this way.

reactant | 1-(2,2-Dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]-1-(4-phenoxy-phenyl)urea | 0.33 g | COC(CN(C(=O)NC1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1)OC | C27H33N3O5
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H25N3O3
